US06147031
To 0.55 g of 3-(isoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoic acid were added 10 ml of benzene, then 0.17 ml of thionyl chloride and a drop of triethylamine to heat at reflux for 2 hours. The reaction solution was cooled down. The solvent was distilled out under reduced pressure to give 3-(isoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoyl chloride.

reactant | 3-(isoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoic acid | 0.55 g | O1N=C(C=C1)C=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C12H11NO5S
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
reactant | thionyl chloride | 0.17 ml | S(=O)(Cl)Cl | Cl2OS
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(isoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoyl chloride | O1N=C(C=C1)C=1C(=C(C(=O)Cl)C=CC1S(=O)(=O)C)C | C12H10ClNO4S
